Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
- EGD performed ___ uncomplicated
- EGD guided NJ tube was placed ___ 
- Large volume paracentesis ___ 

 
History of Present Illness:
___ with hx alcoholic and hepatitis C related cirrhosis, alcohol
and substance use disorder, L subclavian stenosis, cervical
spondylosis, COPD, c.diff colitis, depression, GERD, hiatal
hernia, HTN, HLD, myofascial pain syndrome, and PVD who is
presenting with failure to thrive and recent falls. 

She has been having worsening of her chronic back and leg pain
for the past ___ days with increase in chronic muscle spasms. 
She
has been taking Tizanidine for muscle spasms without significant
improvement. Patient reports multiple falls over the last few
days that have been in the setting of standing up from a seated
position and preceded by dizziness. Notes feeling of "legs 
giving
away" under her as well with walking. Has previously had 
problems
with walking and needed a walker at home but not using assistive
device because of upper extremity weakness. Last fall today, 
when
getting out of shower, lost her balance and struck the top of 
her
head on a shelf. Denies chest pain, heart palpitation or 
flushing
with falls. One episode of LOC day PTA with immediate return to
baseline mental status. 

She also notes mid-abdominal pain at the site of umbilical 
hernia
after moving boxes at home 2 days ago. She's had significant 
pain
in the area but continues to pass gas and has regular daily BM.
She had a paracentesis, removing 2L fluids on ___ and due for
repeat para today but given fall reported to the ED instead. No
nausea, vomiting, hematochezia or melena. No fever/chills, 
weight
loss. Has had intermittent feeling food getting stuck in her
throat without odynophagia.  She denies changes in vision, 
cough,
shortness of breath, chest pain, dysuria. Has had chronic
neuropathy in bilateral feet as well as significant pain in the
anterior shins that's been treated with lidocaine patches but
remains ___. 

Also states that over the past ___ weeks she's been having vague
auditory/visual hallucinations, seeing grandmother sitting on 
her
bed or thinking that there are people sitting next to her. Does
not recall history of hallucinations previously.  

Of note, patient was started on Sofosbuvir-velpatasvir (Epclusa)
on ___ for treatment of HCV. Notes intermittent headaches and
mild fatigue since onset of medication but no other notable side
effects. 
 

 
Past Medical History:
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 
 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION EXAM:
=================

T 97.7 PO BP 125/65 HR 76 RR 18 ___ 99 Ra 
GENERAL: appears older than stated age, conversant and able to
recount medical history but oriented to self, month, and place
and not to year or president. 
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes.
Oropharynx is clear.
CARDIAC: RRR, II/VII murmur at RUSB 
LUNGS: Clear to auscultation bilaterally,  No wheezes, rhonchi 
or
rales.
BACK: Tender to palpation of the lower back area
ABDOMEN: Normal bowels sounds, distended, significant 
generalized
tenderness to mild palpation of the abdomen, umbilical hernia
with significant tenderness though reducible 
EXTREMITIES: ___ without edema, lidocaine patches on bilateral
tibia with significant tenderness to mild palpation of the 
tibia,
unable to assess pulses given tenderness 
SKIN: Right arm with large ecchymosis ___ fall), and ecchymosis
of the left lower abdomen, 
NEUROLOGIC: mental status as above, CN2-12 intact. intact
sensation bilaterally, able to lift bilateral legs anti-gravity,
upper extremities ___ strength bilaterally, unable to assess
gait. bilateral hand tremors without asterixis 

Discharge Exam:
=====================
Temp: 
___ 0805 Temp: 98.8 PO BP: 106/61 L HR: 65 RR: 18 O2 sat:
97% O2 delivery: Ra 
GENERAL: Comfortable, in NAD
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. No nystagmus, Moist mucous
membranes. 
CARDIAC: RRR, II/VII murmur at ___ 
LUNGS: CTAB
ABDOMEN: Soft, nt, mild distention, soft umbilical hernia
EXTREMITIES: ___ without edema
SKIN: Right arm with large ecchymosis ___ fall), and ecchymosis
of the left lower abdomen
NEUROLOGIC: CN2-12 intact. intact sensation bilaterally, able to
lift bilateral legs anti-gravity, upper extremities ___ strength
bilaterally, unable to assess gait. bilateral hand tremors that
is high frequency and absent asterixis on exam.

 
Pertinent Results:
Admission labs:
===================

___ 10:59AM   PLT COUNT-63*
___ 10:59AM   NEUTS-77.1* LYMPHS-9.0* MONOS-12.8 EOS-0.5* 
BASOS-0.3 IM ___ AbsNeut-5.75 AbsLymp-0.67* AbsMono-0.95* 
AbsEos-0.04 AbsBaso-0.02
___ 10:59AM   WBC-7.5 RBC-2.77* HGB-8.2* HCT-25.5* MCV-92 
MCH-29.6 MCHC-32.2 RDW-17.4* RDWSD-58.4*
___ 10:59AM   ASA-NEG ETHANOL-NEG tricyclic-NEG
___ 10:59AM   ACETONE-NEGATIVE
___ 10:59AM   ALBUMIN-3.7 CALCIUM-9.1 PHOSPHATE-3.1 
MAGNESIUM-2.4
___ 10:59AM   cTropnT-<0.01
___ 10:59AM   LIPASE-37
___ 10:59AM   ALT(SGPT)-23 AST(SGOT)-36 CK(CPK)-198 ALK 
PHOS-144* TOT BILI-0.7
___ 10:59AM   estGFR-Using this
___ 10:59AM   GLUCOSE-179* UREA N-36* CREAT-1.4* SODIUM-137 
POTASSIUM-4.6 CHLORIDE-99 TOTAL CO2-22 ANION GAP-16
___ 12:05PM   LACTATE-3.8*
___ 12:05PM   COMMENTS-GREEN TOP
___ 01:01PM   ___ PTT-38.9* ___
___ 03:00PM ASCITES  TNC-569* ___ POLYS-5* 
LYMPHS-16* MONOS-37* MACROPHAG-42*
___ 03:00PM ASCITES  TOT PROT-1.7 GLUCOSE-162
___ 04:04PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:04PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:04PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:04PM URINE  OSMOLAL-248
___ 04:04PM URINE  HOURS-RANDOM
___ 04:04PM URINE  HOURS-RANDOM
___ 06:25PM   LACTATE-1.1

Microbiology:
===============

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 5:14 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 4:04 pm URINE      SOURCE: CATHETER. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

   Aerobic Bottle Gram Stain (Final ___: 
      THIS IS A CORRECTED REPORT ___. 
      Reported to and read back by ___ (___) AT 
11:07 AM
      ___. 
      NO ORGANISMS SEEN. 
      PREVIOUSLY REPORTED AS GRAM POSITIVE COCCI IN CLUSTERS 
(___). 
      Reported to and read back by ___ (___) @15:25 
___. 

___ 3:00 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___:    NO GROWTH. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

Imaging:
==========

CXR ___
IMPRESSION:  
  
No definite radiographic evidence for pneumonia. 

CT C- Spine: w/o contrast  ___

IMPRESSION: 
  
1. No acute cervical spine fracture.  Minimal anterolisthesis of 
C2 on C3, 
similar to the prior study from ___. 
2. Mild, multilevel degenerative changes of the cervical spine, 
most 
pronounced at C4-C6. 

CT HEAD non contrast ___ 

IMPRESSION:  
  
No acute intracranial abnormality.  No acute hemorrhage or 
calvarial fracture. 
  
ABD US ___

IMPRESSION: 
  
1. Patent main, left and right portal veins with normal 
directional flow. 
2. Cirrhotic liver with sequela of portal hypertension, 
including moderate 
ascites and splenomegaly of 17.0 cm. 
3. No focal liver mass lesions identified. 
  

CT ABD Pelvis ___ 

IMPRESSION: 
  
  
1. Hepatic cirrhosis with splenomegaly.  Interval increase in 
the amount of 
ascites. 
2. Gradual interval increase in the size of umbilical hernia now 
containing 
increased length of nonobstructed small bowel loops.  No 
evidence of bowel 
obstruction. 
3. 11 mm exophytic soft tissue density in the left adnexa, 
although stable 
from prior CT likely represents an adnexal/ovarian lesion.  If 
this is not 
previously evaluated, further assessment with a nonurgent pelvic 
ultrasound 
can be performed. 
  
___ EGD: grade II esophageal varices and portal hypertensive 
gastropathy 

___ 

IMPRESSION: 
  
1. The soft tissue lesion seen in the left adnexa on CT abdomen 
and pelvis 
from ___ssessed on the current study.  
Further 
evaluation with MR pelvis may be considered to further 
characterize. 
2. Large volume ascites. 
3. Trace endometrial fluid. 

___

IMPRESSION:
  
1. Technically successful ultrasound guided therapeutic 
paracentesis. 
2. 3 L of fluid were removed. 

Discharge Labs:
================

___ 07:30AM BLOOD WBC-3.8* RBC-2.77* Hgb-8.3* Hct-26.0* 
MCV-94 MCH-30.0 MCHC-31.9* RDW-18.3* RDWSD-61.8* Plt Ct-40*
___ 07:30AM BLOOD Plt Ct-40*
___ 07:30AM BLOOD Glucose-167* UreaN-18 Creat-0.8 Na-142 
K-4.4 Cl-108 HCO3-21* AnGap-13
___ 07:30AM BLOOD ALT-13 AST-24 AlkPhos-123* TotBili-1.2
___ 07:30AM BLOOD Calcium-8.1* Phos-2.0* Mg-2.6
___ 06:40AM BLOOD CEA-6.8* CA12___-193*
___ 06:25AM BLOOD HCV Ab-POS*
 
Brief Hospital Course:
Summary 
=========
Ms. ___ is a ___ female with HCV (genotype 1a) and 
EtOH cirrhosis (child's class B) c/b ascites, esophageal 
varices, and hepatic encephalopathy, hx polysubstance abuse, 
COPD, HTN, and HLD who presented with abdominal pain and FTT, 
s/p large volume paracentesis with no evidence of SBP, s/p EGD 
showing grade II esophageal varices and portal hypertensive 
gastropathy, s/p NJ tube placement, who was started on tube 
feeds prior to discharge. 

#Abdominal pain - Presented with acute on chronic abdominal 
pain. S/p large volume paracentesis no e/o SBP. Likely ___ 
ascites, also with midline hernias, reducible no evidence of 
strangulation or incarceration. CT A/P showing increase in size 
of umbilical hernia no e/o obstruction, also with 11mm left 
adnexal mass. S/p EGD showing grade II esophageal varices and 
changes c/w portal hypertensive gastropathy. She improved 
symptomatically with therapeutic paracentesis. 

#HCV/alcohol cirrhosis (Child's C) - 
#Acute hepatic encephalopathy
Pt presented with acute alteration in MS and falls, thought to 
be a combination of recent initiation of tizanidine and 
worsening hepatic encephalopathy. She cleared with cessation of 
offending medications and multiple bowel movements. She was 
continued on rifaximin and lactulose for control. During her 
stay she underwent EGD which showed Grade II esophageal varices 
with some portal hypertensive gastropathy. She had x2 LVP's, 
most recently on ___. She continued on her epclusa for HCV 
treatment, and she was started on NJ feeds for protein-calorie 
malnutrition. 

#L adenexal mass - Found to have 11mm left adenexal mass. 
Appears stable compared to prior to imaging, however with 
elevated CA-125. GYN saw the patient in house who recommended 
f/u in 4 weeks with repeated serum evaluation. Her peritoneal 
fluid cytology was pending at the time of discharge. 

___ 
Baseline Cr 0.8-1.1, elevated to 1.4 on admission. Diuretics had 
been previously held on discharge on ___ given recurrence ___ 
iso diuresis and poor PO intake. Improved with holding diuretics 
and albumin infusion. Diuretics resumed prior to d/c with cycled 
TF's. 

#Ankle/back pain 
#Myofacial pain
Pt tolerated APAP only during admission for pain, additional 
medications were held given initial AMS. 

#COPD 
- continue home fluticasone-salmeterol diskus
- Continue tiotropium
- Continue albuterol PRN 

#GERD
- Continue pantoprazole 40mg daily 

#HLD
- Continue simvastatin 20mg 

#HTN
- hold valsartan, amlodipine

Transitional issues:
[] Pt will be getting cycled tube feeds overnight for her 
protein-calorie malnutrition
[] Cont with weekly large volume paracenteses for volume 
management
[] Pt will restart her lasix in an effort to prevent need for 
more frequent paracenteses
[] Pt should be considered for palliative care referral in the 
outpatient setting
[] Pt needs f/u with GYN as scheduled for adnexal mass and 
elevated tumor markers
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Lactulose 30 mL PO TID 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Nystatin Oral Suspension 5 mL PO QID 
9. Pregabalin 150 mg PO BID 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Thiamine 100 mg PO DAILY 
12. Simvastatin 20 mg PO QPM 
13. Simethicone 40-80 mg PO QID:PRN gas 
14. Rifaximin 550 mg PO BID 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Pantoprazole 40 mg PO Q24H 
17. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
18. Escitalopram Oxalate 10 mg PO DAILY 
19. HydrOXYzine 25 mg PO BID:PRN itch 
20. Zinc Sulfate 220 mg PO DAILY 
21. amLODIPine 5 mg PO DAILY 
22. Valsartan 320 mg PO DAILY 
23. Furosemide 40 mg PO DAILY 
24. Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
25. TraZODone 50 mg PO QHS:PRN insomnia  
26. Tizanidine 2 mg PO DAILY:PRN muscle spasm  

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
2.  Aspirin 81 mg PO DAILY  
3.  Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily  
4.  Escitalopram Oxalate 10 mg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU BID  
6.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Furosemide 40 mg PO DAILY  
9.  HydrOXYzine 25 mg PO BID:PRN itch  
10.  Lactulose 30 mL PO TID  
11.  Multivitamins W/minerals 1 TAB PO DAILY  
12.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
13.  Pantoprazole 40 mg PO Q24H  
14.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
15.  Rifaximin 550 mg PO BID  
16.  Simethicone 40-80 mg PO QID:PRN gas  
17.  Simvastatin 20 mg PO QPM  
18.  Thiamine 100 mg PO DAILY  
19.  Tiotropium Bromide 1 CAP IH DAILY  
20.  Zinc Sulfate 220 mg PO DAILY  
21.Tube Feeds
Osmolite 1.5 Cal;  Nasojejunal (NJ); Goal rate: 50 ml/hr over 24 
hours  Free water amount: 50 mL; Free water frequency: Q6H 
Dispense 1 Month Supply Refills 2

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Sarcopenia 
# Decompensated Cirrhosis 
# Acute anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you on this hospital stay at 
___.

Why was I admitted?

- You were admitted to the hospital for abdominal pain, and 
weakness. 
- We think you stomach pain was from the large amount of fluid 
in your abdomen from your cirrhosis
- We also found that you were very weak from malnutrition and 
started you on tube feeds

What happened while I was in the hospital?

- We started you on tube feeds to improve your nutrition
- We took fluid off of your abdomen with two large volume 
paracentesis 

What you need to do once you leave the hospital. 

- It is important that you see your regular doctor and continue 
to see your liver doctor
- It is also very important that you continue to take your home 
medications

We wish you the best in the future- 

Your ___ Care Team
 
Followup Instructions:
___